US07122538B2
7-Hydroxy-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester (D1a)
7-Methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine (10 g) in 48% aqueous hydrobromic acid (350 ml) was allowed to stir at 100° C. for 4 h. The mixture was allowed to cool to 20° C. then evaporated to dryness, giving the crude hydroxy compound as a brown solid (14.5 g). This solid was dissolved in tetrahydrofuran (100 ml) and water (70 ml) and triethylamine (8 g) was added dropwise, followed by a solution of di-tert-butyl dicarbonate (14 g) in tetrahydrofuran (20 ml). The resulting mixture was allowed to stir at 20° C. for 16 h then partitioned between ethyl acetate (200 ml) and water (200 ml). The aqueous layer was extracted with ethyl acetate (100 ml). The combined organic extracts were washed with saturated aqueous sodium bicarbonate (100 ml), dried over anhydrous sodium sulfate and evaporated to dryness. The resulting oil was purified by chromatography over silica gel, eluting with 10–30% ethyl acetate in hexane, affording the title compound D1a as a white solid (8 g), MS (API+): Found 164 (MH+-Boc). C15H21NO3 requires 263. 1H NMR: δ CDCl3 1.48 (9H, s), 2.75–2.87 (4H, m), 3.40–3.60 (4H, m), 4.95 (1H, s), 6.50–6.62 (2H, m), 6.96 (1H, d).

reactant | 7-Methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 10 g | COC1=CC2=C(CCNCC2)C=C1 | C11H15NO
reactant | water | 70 ml | O | H2O
reactant | triethylamine | 8 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | hydrobromic acid | 350 ml | Br | BrH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 7-Hydroxy-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=C(C=C2)O | C15H21NO3
